US05162316
7-Methoxy-4-oxo-2-(2-propoxyphenyl)-3,4-dihydropyrimido[4.5-d]pyrimidine
In a similar manner to Example 36 reaction of 7-methylsulphonyl-4-oxo-2-(2-propoxyphenyl)-3,4-dihydropyrimido[4,5-d]pyrimidine (0.50 g) and sodium methoxide solution (from sodium, 0.16 g, and methanol, 20 ml) yielded the title compound, 0.29 g, m.p. 231°-2°° C. (recrystallised from methanol).

reactant | 7-methylsulphonyl-4-oxo-2-(2-propoxyphenyl)-3,4-dihydropyrimido[4,5-d]pyrimidine | 0.50 g | CS(=O)(=O)C1=NC=C2C(=N1)N=C(NC2=O)C2=C(C=CC=C2)OCCC | C16H16N4O4S
reactant | sodium methoxide | 20 ml, 0.16 g | C[O-].[Na+]
product | 7-Methoxy-4-oxo-2-(2-propoxyphenyl)-3,4-dihydropyrimido[4.5-d]pyrimidine | COC1=NC=C2C(=N1)N=C(NC2=O)C2=C(C=CC=C2)OCCC | C16H16N4O3
